US06538015B1
To a solution of 120 mg of 5-(3,5-Dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methoxymethyl]-1H-pyrazole-3-methanol in 1 ml of dichloromethane at 0° C. was added 11 mg of trichloroacetyl isocyanate. The mixture was stirred for 2 h at 0° C. then the solvent was removed. The residue was dissolved in 2 ml of methanol and 1 ml of water, 100 mg of potassium carbonate added, and the mixture stirred at room temperature for 1 h. The mixture was partitioned between ethyl acetate and water. The combined extracts were dried over magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography using methanol/dichloromethane for the elution to give 12 mg of carbamic acid [5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methoxymethyl]-1H-pyrazol-3-yl]methyl ester as a white solid. Mass spectrum (ES) m/z 481 [M]+. 1H NMR (DMSO-d6) 1.25 (d, 6H), 4.50 (s, 2H), 4.52 (s, 2H), 4.80 (m, 1H), 5.05 (s, 2H), 6.55 (br s, 1H), 6.75 (br s, 1H), 7.08 (m, 2H), 7.16 (d, 2H) 7.45 (m, 1H), 8.43 (d, 2H).

reactant | 5-(3,5-Dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methoxymethyl]-1H-pyrazole-3-methanol | 120 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)CO)COCC1=CC=NC=C1 | C20H21Cl2N3O2S
reactant | trichloroacetyl isocyanate | 11 mg | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | carbamic acid [5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methoxymethyl]-1H-pyrazol-3-yl]methyl ester | 12 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)COC(N)=O)COCC1=CC=NC=C1 | C21H22Cl2N4O3S
